US04847254
N,N-dipropyl-6-hydroxy-1-indanmethylamine (Lu 21-051)
N,N-Dipropyl-1-indanmethylamine, oxalate. M.P 99°-102° C. (Lu 21-091)

reactant | N,N-Dipropyl-1-indanmethylamine | C(CC)N(CC1CCC2=CC=CC=C12)CCC | C16H25N
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | N,N-dipropyl-6-hydroxy-1-indanmethylamine | C(CC)N(CC1CCC2=CC=C(C=C12)O)CCC | C16H25NO
